US06103910
b) (R)-1-[[2-[2-[(R)-2-carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 345 mg (0.61 mmol) (R)-1-[[2-[2-[(R)-2-tert-butoxycarbonyl -pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 4 ml trifluoroacetic acid was stirred for 4 h at room temperature. The solvent was removed in vacuo and the residue suspended in 10 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 265 mg (96%) of the title compound as a white powder. MS m/e (%): 473 (M+Na+, 54), 451 (M+H+, 100).

reactant | (R)-1-[[2-[2-[(R)-2-tert-butoxycarbonyl -pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.61 mmol, 345 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=C(C(=CC=C1)OC)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C29H42N2O9
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[2-[2-[(R)-2-carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid | 265 mg, 96% | C(=O)(O)[C@@H]1N(CCC1)C(COC1=C(OCC(=O)N2[C@H](CCC2)C(=O)O)C=CC=C1OC)=O | C21H26N2O9
